US07932247B2
1,1-dimethylethyl 4-{[3-({[(3-bromo-4-fluorophenyl)methyl]amino}carbonyl)phenyl]methyl}-1-piperidinecarboxylate
To solution of the commercially available 3-[(1-{[(1,1-dimethylethyl)oxy]carbonyl}-4-piperidinyl)methyl]benzoic acid (200 mg, 0.63 mmol) in CHCl3 (5 mL) was added HOBt (90 mg, 0.67 mmol), EDCI (180 mg, 0.94 mmol), and triethylamine (0.2 ml, 1.4 mmol), followed by [(3-bromo-4-fluorophenyl)methyl]amine hydrochloride (151 mg, 0.62 mmol). The resulting mixture was allowed to stir at room temperature for 2 hours then quenched with saturated aq. NaHCO3 (1 mL) was added. The organic layer was separated, dried over Na2SO4 and evaporated to give a residue which was purified by Combiflash® chromatography eluting with hexane/ethyl acetate (95/5 to 70/30 over 15 min.) to give the title compound as white solid (265 mg, 80%). LC/MS: m/z, 505 (M+H), 2.81 min.

reactant | 3-[(1-{[(1,1-dimethylethyl)oxy]carbonyl}-4-piperidinyl)methyl]benzoic acid | 0.63 mmol, 200 mg | CC(C)(C)OC(=O)N1CCC(CC1)CC=1C=C(C(=O)O)C=CC1 | C18H25NO4
reactant | HOBt | 0.67 mmol, 90 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.94 mmol, 180 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | triethylamine | 1.4 mmol, 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | [(3-bromo-4-fluorophenyl)methyl]amine hydrochloride | 0.62 mmol, 151 mg | Cl.BrC=1C=C(C=CC1F)CN
solvent | CHCl3 | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | 1,1-dimethylethyl 4-{[3-({[(3-bromo-4-fluorophenyl)methyl]amino}carbonyl)phenyl]methyl}-1-piperidinecarboxylate | 265 mg, 80% | BrC=1C=C(C=CC1F)CNC(=O)C=1C=C(C=CC1)CC1CCN(CC1)C(=O)OC(C)(C)C | C25H30BrFN2O3
